### PR TITLE
[Merged by Bors] - chore(Topology/Order/SuccPred): use `to_dual`

### PR DESCRIPTION
**Pull request by vihdzp**
---

- [x] depends on: #37780

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Order/SuccPred.lean [hunk 1]
```diff
@@ -51,9 +51,18 @@ theorem isOpen_singleton_iff : IsOpen {a} ↔ ¬ IsSuccLimit a := by
       simp [ha.Iic_eq]
     · exact isOpen_singleton_of_not_isSuccPrelimit ha
 
+-- TODO: generate this automatically
```
Comment (bryangingechen) [inline Mathlib/Topology/Order/SuccPred.lean]: Do you know what goes wrong here?

Comment (vihdzp) [reply Mathlib/Topology/Order/SuccPred.lean]: Just some missing tags I've gone ahead and added.

**Review by bryangingechen — APPROVED** [review]
Thanks!
bors r+
